US04170465
84 g of diketene were added over 30 minutes to a stirred mixture of 127 g of cyclooctylamine and 800 ml of tetrahydrofuran cooled to -5° C. and the mixture was stirred for 4 hours at 20° C. and then evaporated to dryness under reduced pressure to obtain 210 g of N-cyclooctyl-acetylacetamide melting at 44° C. 63 g of the said product and 1 g of p-toluene sulfonic acid were added to a mixture of 150 ml of methanol and 40 g of methyl orthoformate and after stirring the mixture for 16 hours, 1.5 ml of quinoline were added thereto. The mixture was distilled to dryness under reduced pressure and the residual oil was dissolved in toluene. The solution was heated at 145° C. for 4 hours while distilling off a methanol-toluene azeotrope. The mixture was distilled to dryness under reduced pressure and the oil residue was chromatographed over silica gel. An 8-2 methylene chloride-acetone mixture was used as the eluant and the product was empasted with isopropyl ether to obtain 45 g of N-cyclooctyl-3-methoxy-crotonamide melting at 116° C.

reactant | p-toluene sulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl orthoformate | 40 g | C(OC)([O-])[O-]
reactant | quinoline | 1.5 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | methanol | 150 ml | CO | CH4O
product | N-cyclooctyl-3-methoxy-crotonamide | 45 g | C1(CCCCCCC1)NC(\C=C(\C)/OC)=O | C13H23NO2
